US06525070B2
4-(3-Chloro-4-fluoro-phenoxy)-piperidine
DEAD (0.43 ml) was added to a solution of triphenylphosphine (0.72 g), 3-chloro-4-fluorophenol (0.403 g) and 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (0.5 g) in THF at RT. The resulting mixture was stirred overnight, HCl in dioxan (2 ml of 4M) was added and the mixture stirred at RT overnight. The mixture was then evaporated to dryness and triethylamine (5 ml) was added. The mixture was evaporated and the residue was dissolved in methanol (10 ml), placed onto a SCX cartridge (Varian, 10 g, SCX cartridge available from International Sorbent Technology Isolute® Flash SCX-2) and eluted: first with methanol then with 10% NH3 in methanol. The basic fractions were combined and evaporated to give the product as an oil (0.6 g).

reactant | DEAD | 0.43 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 0.72 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-chloro-4-fluorophenol | 0.403 g | ClC=1C=C(C=CC1F)O | C6H4ClFO
reactant | 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 0.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | dioxan | 4M, 2 ml | O1CCOCC1 | C4H8O2
product | 4-(3-Chloro-4-fluoro-phenoxy)-piperidine | 0.6 g | ClC=1C=C(OC2CCNCC2)C=CC1F | C11H13ClFNO
